US09278950B2
Step 10. 3-Amino-4-{(3S)-3-[(tert-Butoxycarbonyl)amino]piperidin-1-yl}-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate
A mixture of 4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate (64.0 mg, 0.152 mmol), AcOH (0.90 mL), water (0.10 mL) and iron powder (149 mg, 2.66 mmol) was stirred at room temperature for 20 min. The mixture was diluted with EtOAc, and filtered through a short silica gel plug. The filtrate was concentrated under reduced pressure, diluted with EtOAc and washed with aq. Na2CO3. The combined organic extract was dried, filtered and concentrated under reduced pressure to give the sub-title compound as a yellow solid. LCMS calc. for C20H31N4O4 (M+H)+: m/z=391.2. Found: 391.1.

reactant | 4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate | 0.152 mmol, 64.0 mg | C(C)(=O)OC1CCC=2C1=NC=C(C2N2C[C@H](CCC2)NC(=O)OC(C)(C)C)[N+](=O)[O-] | C20H28N4O6
reactant | AcOH | 0.90 mL | CC(=O)O | C2H4O2
reactant | water | 0.10 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | iron | 2.66 mmol, 149 mg | [Fe] | Fe
product | 3-Amino-4-{(3S)-3-[(tert-Butoxycarbonyl)amino]piperidin-1-yl}-6,7-dihydro-5H-cyclopenta[b]pyridin-7-yl acetate | C(C)(=O)OC1CCC=2C1=NC=C(C2N2C[C@H](CCC2)NC(=O)OC(C)(C)C)N | C20H30N4O4
